US05238908
To 115 mg (5 mmol) of sodium metal (cut into small pieces and washed with hexanes) in 5 ml of THF was added a solution of diethyl malonate (800 mg, 5 mmol) in 10 ml THF. The mixture was stirred at room temperature until all of the sodium metal was consumed (2-3 hours). A catalytic amount of tetrabutylammonium bromide was added, followed by a THF solution (10 ml) of ethyl 4,4,4-trifluorocrotonate (0.84 g, 5 mmol). This mixture was warmed to 40° C. and stirred for 17 hours. After cooling to 10° C., glacial acetic acid (300 mg, 5 mmol) was added and the THF was removed in vacuo. The resulting residue was treated with a solution of 87.3% KOH (1.28 g, 20 mmol) in 10 ml water and refluxed for 4.5 hours. After cooling to 10° C., 2.5 ml (26 mmol) of conc. HCl was added dropwise via pipette and the mixture was again heated to reflux until CO2 evolution had ceased (ca. 1 hour). The solution was cooled to 15° C. and extracted with Et2O(3×10 ml). The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo to afford 3-(trifluoromethyl)glutaric acid as a white solid in 95% yield (m.p. 100°-100.5° C.).

reactant | sodium | 5 mmol, 115 mg | [Na] | Na
reactant | diethyl malonate | 5 mmol, 800 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | ethyl 4,4,4-trifluorocrotonate | 5 mmol, 0.84 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | acetic acid | 5 mmol, 300 mg | C(C)(=O)O | C2H4O2
reactant | KOH | 20 mmol, 1.28 g | [OH-].[K+]
reactant | HCl | 26 mmol, 2.5 ml | Cl | ClH
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(trifluoromethyl)glutaric acid | 95% yield | FC(C(CC(=O)O)CC(=O)O)(F)F | C6H7F3O4
